US06541638B2
(2S,4R)-{[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid (32.6 mg, 0.07 mmol) and Ac-Cys(Npys)—OH (20.6 mg, 0.07 mmol) were dissolved in argon-degassed DMF (abs. 2 ml) and degassed 0.1 M phosphate buffer (pH 6.2, 2 ml) was added. The reaction mixture was magnetically stirred for 2 h under argon. Ethyl acetate (30 ml), water (20 ml) were added and the organic phase was washed with water (3×20 ml) and concentrated under reduced pressure to give a yellow oil: 37 mg. Prep. RP-HPLC purification followed by pooling and freeze-drying of desired fractions yielded 2-acetylamino-3-[5-(carboxymethyl-phenethyl-carbamoyl)-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yldisulfanyl]-propionic acid as a white lyophilisate (20 mg) MS: 657.9 (M-H)−.

reactant | (2S,4R)-{[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid | 0.07 mmol, 32.6 mg | S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)N(CCC1=CC=CC=C1)CC(=O)O | C25H26N2O5S2
reactant | Ac-Cys(Npys)—OH | 0.07 mmol, 20.6 mg | N([C@@H](CSSC1=C([N+](=O)[O-])C=CC=N1)C(=O)O)C(=O)C | C10H11N3O5S2
product | 2-acetylamino-3-[5-(carboxymethyl-phenethyl-carbamoyl)-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yldisulfanyl]-propionic acid | C(C)(=O)NC(C(=O)O)CSSC1CN(C(C1)C(N(CCC1=CC=CC=C1)CC(=O)O)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C30H33N3O8S3
